US05093332
A solution of N-methoxyethoxyethyl-N-methoxyethyl (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazin-3-yl)acetamide (500 mg, 1 mmol) in dimethoxyethane (5 ml) was added dropwise to a suspension of lithium aluminum hydride (152 mg, 4 mmol) in dimethoxyethane (5 ml) at such a rate that the mixture refluxed gently. When addition was complete, the reaction mixture was refluxed an additional 2 hours. The mixture was cooled in an ice bath and a saturated solution of Rochelle salt was added. The resulting mixture was stirred overnight at ambient temperature, filtered to remove some granular solid, and concentrated to dryness under vacuum. The residue was partitioned between ethyl acetate and 0.5N HCl. The acid fraction was brought to pH 8 by the addition of NH4OH and extracted with ethyl acetate. This ethyl acetate extract was washed with brine and dried over sodium sulfate. After filtration and evaporation of solvent the residue was chromatographed over silica gel eluting with CHCl3 /MeOH/NH4OH (70:30:3) to give 3-[ 2-(N-methoxyethoxyethyl-N-methoxyethylamino)ethyl]-2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine. The free base was converted to the hydrochloride salt hydrate from ethanolic hydrogen chloride and ether, mp 170°-175° C.

reactant | N-methoxyethoxyethyl-N-methoxyethyl (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazin-3-yl)acetamide | 1 mmol, 500 mg | COCCOCCN(C(CC1C(NC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O)=O)=O)CCOC | C16H25N3O9S3
reactant | lithium aluminum hydride | 4 mmol, 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
product | 3-[ 2-(N-methoxyethoxyethyl-N-methoxyethylamino)ethyl]-2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | COCCOCCN(CCOC)CCC1C(NC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O)=O | C16H27N3O8S3
